US05143920
3-Butyryl-4-chloro-6-methoxyquinoline (7.9 g) was stirred in dry dichloromethane (150 ml) under nitrogen and boron tribromide (8.5 ml) was added via a syringe. The mixture was stirred overnight then cautiously added to a large volume of ice. The mixture was taken to pH 14 with sodium hydroxide solution, washed with dichloromethane, neutralized with hydrochloric acid and extracted several times with dichloromethane. The combined extracts were washed with brine, dried, filtered and evaporated to give 3-butyryl-4-chloro-6-hydroxyquinoline as a yellow powder (1.5 g, 20%) m.p. 157°-160°.

reactant | 3-Butyryl-4-chloro-6-methoxyquinoline | 7.9 g | C(CCC)(=O)C=1C=NC2=CC=C(C=C2C1Cl)OC | C14H14ClNO2
reactant | boron tribromide | 8.5 ml | B(Br)(Br)Br | BBr3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 3-butyryl-4-chloro-6-hydroxyquinoline | 1.5 g, 20% | C(CCC)(=O)C=1C=NC2=CC=C(C=C2C1Cl)O | C13H12ClNO2
